Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hepatic hydrothorax 
 
Major Surgical or Invasive Procedure:
Chest tube placement (at OSH) and removal
EGD
Transjugular liver biopsy
 
History of Present Illness:
The patient presented to OSH ED on ___ with complaints of ___ 
weeks of dyspnea in respiratory distress. He was found to have 
absent lung sounds on the right with CXR showing complete 
opacification. He was found to have a transaminitis with ALT 62, 
AST 100 and INR 3.0. He reported a ___ year history of fatigue, 
malaise, wt loss and chronic diarrhea with a rapid worsening 
over the prior 3 weeks with severe DOE. He was unable to walk 
___ feet without getting short of breath. + orthopnea. + 
bilateral leg swelling. He underwent an emergent thoracentesis 
with 2L of straw-colored fluid removed. A chest tube was placed 
and subsequently drained ___. He was started on IVF with 
albumin. Was intubated and required pressors for hypotension. 
Over the next several days his chest tube continued to drain 
___ daily. Per written report Liver us showed patent portal 
vein, hepatic veins not visualized. He was extubated and 
transferred to medical floor, requiring continuous IVF to match 
CT output. Full DC summary not available but per addendum, his 
antibiotics were discontinued as hydrothorax was felt not to be 
infected. He was continued on 125ml NS/hr.Full initial 
hepatology workup is not available at this time. He was 
transferred to ___ for further liver work up. 
 
Past Medical History:
Crohn's Disease since age ___, s/p ex lap, no history of bowel 
resection  
H. pylori  
Morbid obesity  

 
Social History:
___
Family History:
No family history of cardiac disease, liver disease, cancer or 
renal failure. Mother bipolar d/o. Father emphysema, CAD. 
 
Physical Exam:
Vitals: T 96.9, HR 103, BP 114/60, RR 20, O2 99% 3L NC  
Gen: drowsy but easily arousable  
HEENT: PERRL, EOMI, sclera anicteric  
CV: tachy, RR, no MRG  
RESP: + crackles throughout R lung field, few crackles on L. R 
chest tube draining large amounts of serosanguinous fluid  
ABD: morbid obesity, difficult to distinguish if fluid wave 
present, NT/ND, NABS  
EXT: 3+ ___ edema b/l  
Tubes: RIJ, ___  
Neuro: moves all ext, following commands, no asterixis  

 
Pertinent Results:
Admission labs:
___ 03:23AM BLOOD WBC-8.6 RBC-2.78* Hgb-9.4* Hct-29.1* 
MCV-105* MCH-33.9* MCHC-32.3 RDW-15.2 Plt ___
___ 03:23AM BLOOD ___ PTT-33.4 ___
___ 03:23AM BLOOD Glucose-127* UreaN-11 Creat-0.8 Na-138 
K-4.0 Cl-109* HCO3-25 AnGap-8
___ 03:23AM BLOOD ALT-40 AST-44* LD(LDH)-131 AlkPhos-91 
Amylase-129* TotBili-1.0
___ 03:23AM BLOOD TotProt-4.0* Albumin-2.0* Globuln-2.0 
Calcium-7.1* Phos-2.1* Mg-1.8 Iron-36* Cholest-50
___ 03:23AM BLOOD calTIBC-77* VitB12-1143* Folate-12.1 
Ferritn-160 TRF-59*
___ 06:31AM BLOOD Hapto-27*
___ 03:23AM BLOOD Triglyc-65 HDL-8 CHOL/HD-6.3 LDLcalc-29
___ 04:25AM BLOOD %HbA1c-4.7* eAG-88*
___ 03:23AM BLOOD TSH-7.7*
___ 03:23AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-POSITIVE
___ 05:01PM BLOOD Smooth-NEGATIVE
___ 05:01PM BLOOD ___
___ 06:31AM BLOOD AFP-3.4
___ 03:23AM BLOOD PEP-NO SPECIFI IgG-944 IgM-178
___ 05:30AM BLOOD tTG-IgA-12
___ 03:23AM BLOOD HCV Ab-NEGATIVE
.
___ Ceruloplasmin:
Test                          Result              Reference 
Range/Units
CERULOPLASMIN                 9  L                ___ mg/dL
.
___ alpha-1 antitrypsin:
Test                          Result              Reference 
Range/Units
ALPHA-1-ANTITRYPSIN QN        125                 83-199 mg/dL
.
Copper:
Test                          Result              Reference 
Range/Units
COPPER                        38  L               70-175 mcg/dL
.
___ 06:20AM 
CERULOPLASMIN 
  Test                          Result              Reference 
Range/Units
CERULOPLASMIN                 11  L               ___ mg/dL
.
___ pleural fluid:
NEGATIVE FOR MALIGNANT CELLS. 
    
  Mesothelial cells and blood. 
.
___ CXR:
IMPRESSION: Mild volume overload.
.
___ duplex doppler abd:
CONCLUSION: This is a limited study demonstrating minimal 
ascites and no 
suspicious focal liver lesions. There is full patency of the 
hepatic 
vasculature as described. 
.
___ CXR:
IMPRESSION: 
1. Right PICC tip visualized to the upper SVC. 
2. New tiny right pneumothorax, with a right chest tube noted. 
3. Mild CHF. 
.
___ ECHO:
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF 60%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
arch is mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.
.
___ CXR:
IMPRESSION: 
1. No evidence of pneumothorax. 
2. Right medial lung base opacity, likely atelectasis. 
.
___ MRCP abdomen:
1. Cirrhotic-appearing liver with evidence of portal 
hypertension including 
splenomegaly. 
  
2. Limited evaluation of the bile ducts but no obvious 
stricturing or biliary 
dilatation is identified. 
  
3. Large right pleural effusion. 
  
4. Moderate amount of ascites. 
.
___ liver biopsy:
Uncomplicated transjugular liver biopsy via right IJ access. 
Samples were sent to pathology for histopathological 
examination. 
.
___ EGD:
Abnormal mucosa in the esophagus (biopsy)
Mosaic appearance in the whole stomach compatible with Portal 
hypertensive gastropathy
No gastric varices noted.
No esophageal varices noted.
Fluids noted in the stomach, concern for gastroparesis.
Otherwise normal EGD to third part of the duodenum
.
Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___/___„ 
Previous biopsies:    ___  BX SAMPLE LIVER (1 JAR) 
DIAGNOSIS: 
Esophagus biopsy:
Squamous mucosa, no diagnostic abnormalities recognized.  
No glandular mucosa seen.  
.
Urine copper:
Test                          Result              Reference 
Range/Units
COPPER, 24 HOUR URINE         18                  ___ mcg/24 h
24 HR URINE VOLUME            2250                mL/24 h
.
Urine:
u/a ___: negative for infection and blood
.
Discharge labs:
WBC 6.6
Hct 27.2
Plt 164
INR 1.4
Cr 0.7
Na 140
K 4.4
Cl 108
HCO3 26
BUN 12
AST 34
ALT 29
LDH 163
AP 96
TBili 0.8
Alb 2.4
Ca 7.7
Phos 3.6
Mg 2.0
.
Liver biopsy:
Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___/vf 
DIAGNOSIS: 
Liver, core biopsy:
1.  Mild macrovesicular steatosis involving 20% of hepatic 
parenchyma (score 1).

2.  Rare ballooning degeneration; no ___ hyaline seen 
(score 1).

3.  Moderate portal and lobular mixed inflammation (score 2).

4.  Trichrome stain demonstrates cirrhosis (Fibrosis stage 4).
5.  Iron stain:  No stainable iron.
Note:   The findings are consistent with a toxic/metabolic 
injury.  The clinical suspicion for ___ disease is noted.
If ___ disease is clinically excluded the NAS Score is 4 of 
8.
The tissue will be sent for quantitative copper studies and 
results will be reported as an addendum.
 
Brief Hospital Course:
The patient is a ___ y/o gentleman with a PMH of Crohn's disease 
transferred from OSH for management of suspected cirrhosis and 
presumed hepatic hydrothorax.  
.  
# Suspected Hepatic Hydrothorax: Not treated with antibiotics, 
believed to be non-infectious and was instead due to liver 
disease. Cytology and infectious labs negative from pleural 
fluid. Chest tube had been placed on OSH, was removed on ___ by 
interventionl pulmonary team. After that, with continued 
diuresis through lasix and spironolactone and close monitoring 
of volume status, patient's respiratory status was stable and he 
was comfortably breathing on room air. On physical exam, the 
presence of the effusion was obvious, but patient's SpO2 on room 
air remained excellent and he was able to ambulate without 
discomfort. Diuresis with lasix and spironolactone will continue 
to be key to effusion control.
.  
# Liver Disease: Cirrhosis on MRCP. Believe most likely etiology 
is of fatty liver disease (patient at one point weighed > 500 
pounds) leading to inflammation and subsequent cirrhosis.
Other questionable diagnosis is ___ disease, because 
patient with low ceruloplasmin (twice, repeated test). However, 
normal 24-hour urine copper and without ___ rings 
on ophthalmology exam, and without family history, so those 
point away from the diagnosis. Liver biopsy copper studies 
pending.
Viral hepatitis studies negative for B and C. Patient does admit 
to moderate EtOH use with tylenol x ___ years, but doesn't appear 
to be adequate amount. Underlying history of Crohn's disease may 
have been suspicious for an autoimmune etiology including PSC - 
not seen on MRCP, and also without markers for autoimmune 
hepatitis. Studies not consistent with hemochromatosis. 
Interesting that synthetic function poor with INR elevated on 
admission to 3.0 and albumin 1.7; but LFT's wnl 
(AST/ALT/LDH/AP/Bili). Abdominal u/s: minimal ascites, no 
suspicious focal liver lesions, full patency of the hepatic 
vasculature. MRCP: cirrhosis.
Treated with lasix and spironolactone for diuresis given 
peripheral edema, pleural effusion, ascites.
To work-up etiology, patient had MRCP, liver biopsy, EGD (see 
results).
.  
# Plaques seen on EGD: abnormal mucosa in the esophagus seen on 
EGD, biopsy obtained, asymptomatic.
.
# ?Gastroparesis: concern based on EGD. asympomatic. plan for 
outpatient hepatology and GI f/u.
.
# Anemia: stable. not folate or B12 deficient. ferritin wnl. 
perhaps d/t crohn's or chronic disease or liver disease. not 
hemochromatosis. With portal hypertensive gastropathy on EGD, 
but without varices or evidence for GI bleed. Hct stable.
.  
# Dirty u/a with signs of blood and infection (many RBC and 
WBC), but this was right after Foley removal: asymptomatic, 
repeat u/a clean of blood or urine, and urine culture negative. 
Issue resolved.  
.  
# Crohn's Disease: Pt reports past ex-lap but no history of SB 
resection. Not on medications and no recent medical follow-up. 
Initial concern for ulcerative colitis and perhaps PSC, but no 
PSC on MRCP.
.  
# Hyperglycemia: Has not required sliding scale insulin and 
hemoglobin A1c 4.7. Hyperglycemia at OSH likely ___ medications. 
Discontinued insulin sliding scale, issue resolved.
.  
# FEN: low Na diet - teaching and emphasized to patient
.  
# Access: PICC right arm, discontinued on day of discharge
 
Medications on Admission:
HOME MEDICATIONS: None  
.  
MEDICATIONS ON TRANSFER:  
Lantus 12 units SC  
SSI  
Lactulose 20gm daily  
Metoprolol 12.5mg BID  
MVI daily  
Pantoprazole 40mg daily  
Spironolactone 50mg BID  
Bisacodyl PRN  

 
Discharge Medications:
1. Furosemide 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*28 Tablet(s)* Refills:*0*
2. Spironolactone 25 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).
Disp:*56 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Cirrhosis of the liver, indeterminate etiology 
Hepatic hydrothorax 
. 
Secondary: 
Crohn's Disease 
Obesity 

 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - Independent. 

 
Discharge Instructions:
Dear Mr. ___,
 
You were admitted to the hospital with a diagnosis of liver 
cirrhosis and an accumulation of fluid around your lung, a 
condition called hepatic hydrothorax. You had a chest tube 
placed (and then removed) which drained the hydrothorax, but 
some fluid is still present. This will be treated with "water 
pills" (diuretics) that will help you to urinate out the excess 
fluid.
 
.
 
We performed an extensive workup of your liver cirrhosis, 
including a liver biopsy. The results from this are still 
pending. The workup was not entirely conclusive for any one 
particular cause of liver cirrhosis, but some of your labwork 
pointed towards a diagnosis called ___ disease, an abnormal 
accumulation of copper in the body. It could also be due to your 
history of obesity, which can cause liver damage and cirrhosis. 
Your new outpatient gastroenterologist can follow up on this 
workup with you, and if further results (eg, from the liver 
biopsy) do point towards ___ disease, they can initiate 
treatment as well.
 
.
 
You also had an upper endoscopy, which did not show any varices 
(dilated veins in the esophagus that can sometimes bleed). It 
did show some lesions which were biopsed, and these results are 
still pending at this time.
 
.
 
You will be taking 2 new medications, the water pills mentioned 
above:
 
START furosemide (Lasix) 20mg daily
 
START spironolactone (Aldactone) 50mg daily
 
.
 
Please take these medications every day, as prescribed. Please 
adhere to a low sodium diet, less than 2 grams per day, to 
prevent extra water retention. Please monitor your weight 
carefully, and contact your doctor if it is persistently 
increasing despite the water pills.
 

 
Followup Instructions:
___